*SPICE Netlist for circuit 163
V1 4 0 5V
M2 4 3 0 0 NMOS W=1u L=1u
M3 6 1 VDD VDD PMOS W=1u L=1u
M1 6 2 4 4 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

