*SPICE Netlist for circuit 220
I1 1 0 DC 1mA
M2 2 8 1 1 NMOS W=1u L=1u
M1 3 9 1 1 NMOS W=1u L=1u
M4 2 2 VDD VDD PMOS W=1u L=1u
M3 3 3 VDD VDD PMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

