*SPICE Netlist for circuit 240
M3 3 1 0 0 NMOS W=1u L=1u
M4 7 2 VDD VDD PMOS W=1u L=1u
M5 5 2 VDD VDD PMOS W=1u L=1u
M2 7 12 3 3 NMOS W=1u L=1u
M1 5 10 3 3 NMOS W=1u L=1u
R1 7 2 1k
R2 2 5 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)
.MODEL PMOS PMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

