*SPICE Netlist for circuit 248
M3 1 2 0 0 NMOS W=1u L=1u
M1 4 8 1 1 NMOS W=1u L=1u
M2 5 10 1 1 NMOS W=1u L=1u
R3 1 5 1k
R2 4 VDD 1k
R1 5 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

