*SPICE Netlist for circuit 264
I1 VDD 2 DC 1mA
M3 3 1 5 5 NMOS W=1u L=1u
M2 6 2 0 7 7 NMOS W=1u L=1u
M4 5 2 0 0 NMOS W=1u L=1u
M1 2 1 6 8 8 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

