*SPICE Netlist for circuit 266
I1 VDD 1 DC 1mA
M3 5 1 0 0 NMOS W=1u L=1u
M4 6 2 0 0 NMOS W=1u L=1u
M1 1 1 5 5 NMOS W=1u L=1u
M2 2 1 6 6 NMOS W=1u L=1u
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

